US05858995
To a solution of sodium (52 mg) in ethanol (5 ml) was added ethyl acetoacetate (293 mg) and 3-chloromethyl-2-methyl-7-nitrobenzo[b]furan (339 mg). The mixture was stirred at 60° C. for 3 hours, cooled and poured into cold water. The pH of the aqueous solution was adjusted to 3 with 1N-hydrochloric acid and the separated oil was extracted with dichloromethane. The extract was washed with brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified by column chromatography on silica gel and the obtained oil was crystallized from n-hexane to give 3-(2-ethoxycarbonyl-3-oxobutyl)-2-methyl-7-nitrobenzo[b]furan (205 mg).

reactant | sodium | 52 mg | [Na] | Na
reactant | ethyl acetoacetate | 293 mg | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | 3-chloromethyl-2-methyl-7-nitrobenzo[b]furan | 339 mg | ClCC=1C2=C(OC1C)C(=CC=C2)[N+](=O)[O-] | C10H8ClNO3
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 3-(2-ethoxycarbonyl-3-oxobutyl)-2-methyl-7-nitrobenzo[b]furan | 205 mg | C(C)OC(=O)C(CC=1C2=C(OC1C)C(=CC=C2)[N+](=O)[O-])C(C)=O | C16H17NO6
